### PR TITLE
[Merged by Bors] - refactor(Order/OmegaCompletePartialOrder): Unify concepts of Scott Continuity

### PR DESCRIPTION
**Pull request by mans0954**
We currently have two related but different concepts of Scott Continuity in Mathlib - `ScottContinuous` in `Order/Bounds/Basic` and `OmegaCompletePartialOrder.Continuous'` in `Order/OmegaCompletePartialOrder`. We previously showed (#6831) that `ScottContinuous` implies `OmegaCompletePartialOrder.Continuous'` (in general the converse isn't true).

This PR gives a more general definition of Scott Continuity, `ScottContinuousOn` which specialises to `ScottContinuous` and something equivalent to  `OmegaCompletePartialOrder.Continuous'` to give a more satisfactory unification of the concepts.

---

- [x] depends on: #13337
- [x] depends on: #13338

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
CC: @YaelDillies

File: Mathlib/Order/Bounds/Basic.lean [hunk 1]
```diff
@@ -1702,17 +1705,31 @@ The dual notion
...
 -/
-def ScottContinuous (f : α → β) : Prop :=
-  ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a⦄, IsLUB d a → IsLUB (f '' d) (f a)
-#align scott_continuous ScottContinuous
+def DScottContinuous (D : Set (Set α)) (f : α → β) : Prop :=
+  ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → d ∈ D → ∀ ⦃a⦄, IsLUB d a → IsLUB (f '' d) (f a)
+#align scott_continuous DScottContinuous
 
-protected theorem ScottContinuous.monotone (h : ScottContinuous f) : Monotone f := by
+lemma DScottContinuous.LE (D₁ D₂ : Set (Set α)) (hD : D₁ ≤ D₂) {f : α → β}
```
Comment (YaelDillies) [inline Mathlib/Order/Bounds/Basic.lean:1712]:
```suggestion
lemma DScottContinuous.mono (D₁ D₂ : Set (Set α)) (hD : D₁ \subset D₂) {f : α → β}
```
(sorry, on my phone)

File: Mathlib/Order/Bounds/Basic.lean [hunk 2]
```diff
@@ -1702,17 +1705,31 @@ The dual notion
 
 does not appear to play a significant role in the literature, so is omitted here.
 -/
-def ScottContinuous (f : α → β) : Prop :=
-  ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a⦄, IsLUB d a → IsLUB (f '' d) (f a)
-#align scott_continuous ScottContinuous
+def DScottContinuous (D : Set (Set α)) (f : α → β) : Prop :=
+  ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → d ∈ D → ∀ ⦃a⦄, IsLUB d a → IsLUB (f '' d) (f a)
+#align scott_continuous DScottContinuous
```
Comment (YaelDillies) [inline Mathlib/Order/Bounds/Basic.lean:1710]: Shouldn't this keep about `ScottContinuous`?

File: Mathlib/Order/Bounds/Basic.lean [hunk 3]
```diff
@@ -1702,17 +1705,31 @@ The dual notion
...
     inter_eq_self_of_subset_right (Ici_subset_Ici.2 hab)]
   exact isLeast_Ici
-#align scott_continuous.monotone ScottContinuous.monotone
+#align scott_continuous.monotone DScottContinuous.monotone
+
+/-- A function between preorders is said to be Scott continuous if it preserves `IsLUB` on directed
+sets. It can be shown that a function is Scott continuous if and only if it is continuous wrt the
+Scott topology.
+-/
+def ScottContinuous (f : α → β) := DScottContinuous univ f
```
Comment (YaelDillies) [inline Mathlib/Order/Bounds/Basic.lean:1730]: I suspect it's better to not change the definition to `DScottContinuous` but instead show `@[simp] lemma dscottContinuous_univ : DScottContinuous univ f \iff ScottContinuous`

File: Mathlib/Order/Bounds/Basic.lean [hunk 4]
```diff
@@ -1702,17 +1705,31 @@ The dual notion
 
 does not appear to play a significant role in the literature, so is omitted here.
 -/
-def ScottContinuous (f : α → β) : Prop :=
-  ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a⦄, IsLUB d a → IsLUB (f '' d) (f a)
-#align scott_continuous ScottContinuous
+def DScottContinuous (D : Set (Set α)) (f : α → β) : Prop :=
+  ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → d ∈ D → ∀ ⦃a⦄, IsLUB d a → IsLUB (f '' d) (f a)
```
Comment (YaelDillies) [inline Mathlib/Order/Bounds/Basic.lean:1709]: Shouldn't this be called `ScottContinuousOn`? or is "D-Scott continuity" a standard term?

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 5]
```diff
@@ -286,17 +303,34 @@ def Continuous' (f : α → β) : Prop :=
   ∃ hf : Monotone f, Continuous ⟨f, hf⟩
 #align omega_complete_partial_order.continuous' OmegaCompletePartialOrder.Continuous'
 
-lemma isLUB_of_scottContinuous {c : Chain α} {f : α → β} (hf : ScottContinuous f) :
-    IsLUB (Set.range (Chain.map c ⟨f, (ScottContinuous.monotone hf)⟩)) (f (ωSup c)) := by
+/-- ωScottContinuous - Scott Continuous over Chains-/
+def ωScottContinuous (f : α → β) := DScottContinuous { d | ∃ (c : Chain α), Set.range c = d } f
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:307]:
```suggestion
def ωScottContinuous (f : α → β) := DScottContinuous (range fun c : Chain α => Set.range c = d) f
```
maybe?

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 6]
```diff
@@ -286,17 +303,34 @@ def Continuous' (f : α → β) : Prop :=
...
+
+lemma ωScottContinuous.monotone {f : α → β} (h : ωScottContinuous f) : Monotone f :=
+  DScottContinuous.monotone { d | ∃ (c : Chain α), Set.range c = d }
+  (fun a b hab => ordered_pair_exists_chain a b hab) h
+
+lemma isLUB_of_ωScottContinuous {c : Chain α} {f : α → β} (hf : ωScottContinuous f) :
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:313]:
```suggestion
lemma ωScottContinuous.isLUB {c : Chain α} {f : α → β} (hf : ωScottContinuous f) :
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 7]
```diff
@@ -286,17 +303,34 @@ def Continuous' (f : α → β) : Prop :=
...
+    IsLUB (Set.range (Chain.map c ⟨f, (ωScottContinuous.monotone hf)⟩)) (f (ωSup c)) := by
   simp only [map_coe, OrderHom.coe_mk]
   rw [(Set.range_comp f ↑c)]
-  exact hf (Set.range_nonempty ↑c) (IsChain.directedOn (isChain_range c)) (isLUB_range_ωSup c)
+  exact hf (Set.range_nonempty ↑c) (IsChain.directedOn (isChain_range c))
+    (by simp only [Set.mem_setOf_eq, exists_apply_eq_apply]) (isLUB_range_ωSup c)
 
-lemma ScottContinuous.continuous' {f : α → β} (hf : ScottContinuous f) : Continuous' f := by
+lemma continuous'_eq_ωScottContinuous {f : α → β} : Continuous' f = ωScottContinuous f := by
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:320]:
```suggestion
lemma continuous'_iff_ωScottContinuous {f : α → β} : Continuous' f \iff ωScottContinuous f := by
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 8]
```diff
@@ -286,17 +303,34 @@ def Continuous' (f : α → β) : Prop :=
   ∃ hf : Monotone f, Continuous ⟨f, hf⟩
 #align omega_complete_partial_order.continuous' OmegaCompletePartialOrder.Continuous'
 
-lemma isLUB_of_scottContinuous {c : Chain α} {f : α → β} (hf : ScottContinuous f) :
-    IsLUB (Set.range (Chain.map c ⟨f, (ScottContinuous.monotone hf)⟩)) (f (ωSup c)) := by
+/-- ωScottContinuous - Scott Continuous over Chains-/
+def ωScottContinuous (f : α → β) := DScottContinuous { d | ∃ (c : Chain α), Set.range c = d } f
+
+lemma ωScottContinuous.monotone {f : α → β} (h : ωScottContinuous f) : Monotone f :=
+  DScottContinuous.monotone { d | ∃ (c : Chain α), Set.range c = d }
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:310]:
```suggestion
  DScottContinuous.monotone _
```
Lean can infer that

File: Mathlib/Order/Bounds/Basic.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Order/Bounds/Basic.lean:1709]: I made up the name `DScottContinuous`. I think most authors use either the chain definition or the directed set definition. Mathlib is a bit unusual in discussing both at once. Perhaps it should be `ScottContinuous'`?

File: Mathlib/Order/Bounds/Basic.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Order/Bounds/Basic.lean]: Done, thanks. That takes 2 files out of the diff.

File: Mathlib/Order/Bounds/Basic.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Order/Bounds/Basic.lean]: Yes, done.

File: Mathlib/Order/Bounds/Basic.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Order/Bounds/Basic.lean:1709]: I mean compare to `Monotone` vs `MonotoneOn`. I think it makes a lot of sense for this to `ScottContinuousOn`. Also I'd suggest moving the `d ∈ D` binder to the front to match other such "restricted predicates".
```suggestion
def DScottContinuous (D : Set (Set α)) (f : α → β) : Prop :=
  ∀ ⦃d : Set α⦄, d ∈ D → d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a⦄, IsLUB d a → IsLUB (f '' d) (f a)
```

File: Mathlib/Order/Bounds/Basic.lean [hunk 9]
```diff
@@ -1702,17 +1705,35 @@ The dual notion
...
+/-- A function between preorders is said to be Scott continuous if it preserves `IsLUB` on directed
+sets. It can be shown that a function is Scott continuous if and only if it is continuous wrt the
+Scott topology.
+-/
+def ScottContinuous (f : α → β) : Prop :=
+  ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a⦄, IsLUB d a → IsLUB (f '' d) (f a)
+#align scott_continuous ScottContinuous
+
+@[simp] lemma dscottContinuous_univ : DScottContinuous univ f ↔ ScottContinuous f :=
+  ⟨fun h _ d₁ d₂ _ hda => h d₁ d₂ trivial hda, fun h _ d₁ d₂ _ _ hda => h d₁ d₂ hda⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Bounds/Basic.lean:1734]: Work smarter, not harder
```suggestion
@[simp] lemma dscottContinuous_univ : DScottContinuous univ f ↔ ScottContinuous f := by
  simp [DScottContinuous, ScottContinuous]
```

File: Mathlib/Order/Bounds/Basic.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Order/Bounds/Basic.lean]: That's a better name! Thanks.

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 10]
```diff
@@ -115,6 +115,23 @@ lemma isChain_range : IsChain (· ≤ ·) (Set.range c) := Monotone.isChain_rang
 
 lemma directed : Directed (· ≤ ·) c := directedOn_range.2 c.isChain_range.directedOn
 
+lemma ordered_pair_exists_chain (a : α) (b : α) (hab : a ≤ b) :
+    ∃ c : Chain α, Set.range c = {a , b} := by
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:119]: Do you mean something like:
```
def ordered_pair_to_chain (a : α) (b : α) (hab : a ≤ b) : Chain α :=
  ⟨fun n => match n with
    | 0 => a
    | _ => b, fun _ _ _ => by aesop⟩

lemma ordered_pair_to_chain_range (a : α) (b : α) (hab : a ≤ b) : 
  Set.range (ordered_pair_to_chain a b hab) = {a , b} :=  by
  rw [le_antisymm_iff]
  constructor
  · intro d ⟨n,hn⟩
    cases n
    · aesop
    · aesop
  · intros d hd
    cases' hd with ha hb
    · use 0; rw [ha]; rfl
    · use 1; rw [hb]; rfl
```
?

The only problem with this is that there isn't anything canonical about the definition.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Sure, but I think that's fine?

[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Okay, I've pushed a commit to that effect. Thanks.

File: Mathlib/Order/Bounds/Basic.lean [hunk 11]
```diff
@@ -1702,17 +1705,35 @@ The dual notion
...
+
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Order/Bounds/Basic.lean:1733]: Done, thanks.

File: Mathlib/Order/Bounds/Basic.lean [hunk 12]
```diff
@@ -1702,17 +1705,35 @@ The dual notion
...
+protected theorem ScottContinuous.monotone (h : ScottContinuous f) : Monotone f := by
+  apply DScottContinuous.monotone univ (by exact fun _ _ _ ↦ trivial) (dscottContinuous_univ.mpr h)
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Order/Bounds/Basic.lean]: Done, thanks.

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 13]
```diff
@@ -115,6 +115,25 @@ lemma isChain_range : IsChain (· ≤ ·) (Set.range c) := Monotone.isChain_rang
 
 lemma directed : Directed (· ≤ ·) c := directedOn_range.2 c.isChain_range.directedOn
 
+/-- An example of a `Chain` constructed from an ordered pair. -/
+def ordered_pair_to_chain (a : α) (b : α) (hab : a ≤ b) : Chain α :=
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:119]:
```suggestion
def pair (a b : α) (hab : a ≤ b) : Chain α :=
```
```suggestion
def ordered_pair_to_chain (a : α) (b : α) (hab : a ≤ b) : Chain α :=
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 14]
```diff
@@ -115,6 +115,25 @@ lemma isChain_range : IsChain (· ≤ ·) (Set.range c) := Monotone.isChain_rang
...
+  ⟨fun n => match n with
+    | 0 => a
+    | _ => b, fun _ _ _ => by aesop⟩
+
+lemma ordered_pair_to_chain_range (a : α) (b : α) (hab : a ≤ b) :
+    Set.range (ordered_pair_to_chain a b hab) = {a , b} :=  by
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:125]:
```suggestion
@[simp] lemma range_pair (a b : α) (hab : a ≤ b) :
    Set.range (pair a b hab) = {a , b} := by
  ext; simp [pair, Nat.and_forall_succ]
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 15]
```diff
@@ -286,17 +305,33 @@ def Continuous' (f : α → β) : Prop :=
...
+lemma ωScottContinuous.isLUB {c : Chain α} {f : α → β} (hf : ωScottContinuous f) :
+    IsLUB (Set.range (Chain.map c ⟨f, (ωScottContinuous.monotone hf)⟩)) (f (ωSup c)) := by
   simp only [map_coe, OrderHom.coe_mk]
   rw [(Set.range_comp f ↑c)]
-  exact hf (Set.range_nonempty ↑c) (IsChain.directedOn (isChain_range c)) (isLUB_range_ωSup c)
+  exact hf (by simp only [Set.mem_range, exists_apply_eq_apply]) (Set.range_nonempty ↑c)
+    (IsChain.directedOn (isChain_range c)) (isLUB_range_ωSup c)
 
-lemma ScottContinuous.continuous' {f : α → β} (hf : ScottContinuous f) : Continuous' f := by
+lemma continuous'_iff_ωScottContinuous {f : α → β} : Continuous' f ↔ ωScottContinuous f := by
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:322]: Could you straightaway replace `continuous'` by `ωScottContinuous`?

Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:322]: I also think we don't need a separate definition `OmegaCompletePartialOrder.Continuous`. It's just `ωScottContinuous ⇑f`.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 14 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Sorry, I can't see what to do with this:
```
@[simp] lemma range_pair (a b : α) (hab : a ≤ b) :
    Set.range (pair a b hab) = {a , b} := by
  ext m; simp [pair, Nat.and_forall_succ]
  constructor
  · intro h
    sorry
  · intro h
    cases' h with ha hb
    · use 0; rw [ha]; rfl
    · use 1; rw [hb]; rfl
```
At the `sorry` I have:
```
m : α
h : ∃ y,
  {
        toFun := fun n ↦
          match n with
          | 0 => a
          | x => b,
        monotone' := ⋯ }
      y =
    m
⊢ m = a ∨ m = b
```

Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Sorry, I meant
```
@[simp] lemma range_pair (a b : α) (hab : a ≤ b) :
    Set.range (pair a b hab) = {a , b} := by
  ext m
  simp? [pair]
  rw [← Nat.or_exists_succ]
  simp
```
Probably golfable further

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: This works:
```
lemma pair_zero (a b : α) (hab : a ≤ b) : pair a b hab 0 = a := rfl

lemma pair_n_plus_one (a b : α) (hab : a ≤ b) (n : ℕ) : pair a b hab (n + 1) = b := rfl

@[simp] lemma range_pair (a b : α) (hab : a ≤ b) : Set.range (pair a b hab) = {a, b} := by
  ext;
  exact Nat.or_exists_succ.symm.trans (by simp_rw [pair_zero, pair_n_plus_one]; aesop)
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 16]
```diff
@@ -121,19 +121,14 @@ def pair (a b : α) (hab : a ≤ b) : Chain α :=
...
-    · aesop
-  · intros d hd
-    cases' hd with ha hb
-    · use 0; rw [ha]; rfl
-    · use 1; rw [hb]; rfl
+lemma pair_zero (a b : α) (hab : a ≤ b) : pair a b hab 0 = a := rfl
+
+lemma pair_n_plus_one (a b : α) (hab : a ≤ b) (n : ℕ) : pair a b hab (n + 1) = b := rfl
+
+@[simp] lemma range_pair (a b : α) (hab : a ≤ b) : Set.range (pair a b hab) = {a, b} := by
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:128]: Hint: You can let Lean infer the type of `hab`
```suggestion
lemma pair_zero (a b : α) (hab) : pair a b hab 0 = a := rfl

lemma pair_n_plus_one (a b : α) (hab) (n : ℕ) : pair a b hab (n + 1) = b := rfl

@[simp] lemma range_pair (a b : α) (hab) : Set.range (pair a b hab) = {a, b} := by
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 15 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:318]: Probably we should define (I'm guessing):
```
def scottHausdorffOn (α : Type*) [Preorder α] (D : Set (Set α)) : TopologicalSpace α where
  IsOpen u := ∀ ⦃d : Set α⦄, d ∈ D → d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a : α⦄, IsLUB d a →
    a ∈ u → ∃ b ∈ d, Ici b ∩ d ⊆ u
  isOpen_univ := fun d _ ⟨b, hb⟩ _ _ _ _ ↦ ⟨b, hb, (Ici b ∩ d).subset_univ⟩
  isOpen_inter s t hs ht d hd₁ hd₂ hd₄ a hd₃ ha := by
    obtain ⟨b₁, hb₁d, hb₁ds⟩ := hs hd₁ hd₂ hd₄ hd₃ ha.1
    obtain ⟨b₂, hb₂d, hb₂dt⟩ := ht hd₁ hd₂ hd₄ hd₃ ha.2
    obtain ⟨c, hcd, hc⟩ := hd₄ b₁ hb₁d b₂ hb₂d
    exact ⟨c, hcd, fun e ⟨hce, hed⟩ ↦ ⟨hb₁ds ⟨hc.1.trans hce, hed⟩, hb₂dt ⟨hc.2.trans hce, hed⟩⟩⟩
  isOpen_sUnion := fun s h d hd₁ hd₂ hd₄ a hd₃ ⟨s₀, hs₀s, has₀⟩ ↦ by
    obtain ⟨b, hbd, hbds₀⟩ := h s₀ hs₀s hd₁ hd₂ hd₄ hd₃ has₀
    exact ⟨b, hbd, Set.subset_sUnion_of_subset s s₀ hbds₀ hs₀s⟩
```
and similarly:
```
def scottOn (α : Type*) [Preorder α] (D : Set (Set α)) : TopologicalSpace α := upperSet α ⊔ scottHausdorffOn α D
```
and then show that `ωScottContinuous` corresponds to continuity on this topology for `D = Set.range fun c : Chain α => Set.range c`. Then results like `OmegaCompletePartialOrder.continuous_id`, `OmegaCompletePartialOrder.continuous_comp` and `OmegaCompletePartialOrder.continuous_const` would just become the usual topological results. Furthermore we could subsume `Topology/OmegaCompletePartialOrder`.

This is probably two or three follow up PRs, so I didn't want to start tugging at that thread yet.

```

Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:318]: Okay sure, but unless I've overlooked something you can already replace `OmegaCompletePartialOrder.Continuous` with `ωScottContinuous` everywhere without having to change the topology. Just use the fact that you've proved `OmegaCompletePartialOrder.Continuous f ↔ ωScottContinuous f`.

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:318]: Sorry, but I can't see how to compose `continuous'_iff_ωScottContinuous.mpr` with `ωScottContinuous f`.

```
variable {f : α → β}

#check continuous'_iff_ωScottContinuous.mpr (ωScottContinuous f)
```
Gives me:
```
application type mismatch
  continuous'_iff_ωScottContinuous.mpr (ωScottContinuous f)
argument
  ωScottContinuous f
has type
  Prop : Type
but is expected to have type
  ωScottContinuous ?m.27300 : Prop
```

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:318]: In any case, I still think the effort would be better expended on sorting this out properly in a follow up PR.

Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:318]: You took my advice too literally 😉

I mean that now that you've proved that the two predicates are equivalent in lemma `continuous'_iff_ωScottContinuous`, you can replace `continuous'` in lemma statements by `ωScottContinuous`. All you need to do is prepend the proofs of the lemmas with `simp_rw [continuous'_iff_ωScottContinuous]`

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Nearly there in the latest commit, but can't see how to do `notBelow_isOpen`. Going to have to sleep now.

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: > but can't see how to do `notBelow_isOpen`

I've sorted this now, after a night's sleep :)

I've now removed `Continuous'`.

**Comment by YaelDillies** [comment]
Can you now also replace `OmegaCompletePartialOrder.Continuous` by `ωScottContinuous` everywhere?

**Comment by mans0954** [comment]
> Can you now also replace `OmegaCompletePartialOrder.Continuous` by `ωScottContinuous` everywhere?

I can't get anywhere with `CompleteLattice.iSup_continuous`

**Comment by mans0954** [comment]
> I can't get anywhere with `CompleteLattice.iSup_continuous`

It's `e2'` that trips me up:
```
theorem iSup_ωScottContinuous {ι : Sort*} {f : ι → α →o β} (h : ∀ i, ωScottContinuous (f i)) :
    ωScottContinuous (⨆ i, f i) := by 
  have e1 : ⨆ i, (f i) = (sSup (Set.range fun i ↦ f i)) := by rfl
  have e2 : ωScottContinuous (⨆ i, f i) = ωScottContinuous (sSup (Set.range fun i ↦ f i)) := rfl
  have e2' : ωScottContinuous (⨆ i, f i) = ωScottContinuous ↑(sSup (Set.range fun i ↦ f i)) := sorry
  rw [e2']
  apply (sSup_ωScottContinuous' _ <| Set.forall_mem_range.2 h ) 
```

**Comment by PhoenixIra** [comment]
```lean4
  have e2' : ωScottContinuous (⨆ i, f i) = ωScottContinuous ↑(sSup (Set.range fun i ↦ f i)) := by {
    rw [← OrderHom.coe_iSup]
    rfl
  }
```
Does that help?

**Comment by YaelDillies** [comment]
I've fixed `Order.OmegaCompletePartialOrder`. Can you take it from there?

File: Mathlib/Order/ScottContinuity.lean [hunk 17]
```diff
@@ -0,0 +1,68 @@
+/-
```
Comment (mans0954) [inline Mathlib/Order/ScottContinuity.lean:1]: Why not put Scott Continuity in `Topology/Order/ScottTopology` along with `DirSupInacc` and `DirSupClosed`?

Comment (YaelDillies) [reply Mathlib/Order/ScottContinuity.lean:1]: Do as you want. I just got annoyed editing `Order.Bounds.Basic`.

I must say it would be a bit surprising to have that under `Topology` given that that part of the theory is topology-free, But who am I to decide?

**Comment by mans0954** [comment]
@YaelDillies thanks for the two PRs. Is this one ready now?

**Review by YaelDillies — APPROVED** [review]
Rest looks good but since I've (re)written most of it I would like someone else to sign off. @b-mehta told me in PM that he wanted to have a look.

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 18]
```diff
@@ -228,63 +243,117 @@ open Chain
 
 variable [OmegaCompletePartialOrder β]
 variable [OmegaCompletePartialOrder γ]
+variable {f : α → β} {g : β → γ}
+
+/-- ωScottContinuous - Scott Continuous over Chains-/
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:248]:
```suggestion
/-- A function `f` between `ω`-complete partial orders is `ωScottContinuous` if it is
Scott continuous over chains. -/
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 19]
```diff
@@ -228,63 +243,117 @@ open Chain
...
 def Continuous' (f : α → β) : Prop :=
   ∃ hf : Monotone f, Continuous ⟨f, hf⟩
 
+@[deprecated ωScottContinuous.isLUB (since := "2024-05-29")]
 lemma isLUB_of_scottContinuous {c : Chain α} {f : α → β} (hf : ScottContinuous f) :
     IsLUB (Set.range (Chain.map c ⟨f, (ScottContinuous.monotone hf)⟩)) (f (ωSup c)) := by
-  simp only [map_coe, OrderHom.coe_mk]
-  rw [(Set.range_comp f ↑c)]
-  exact hf (Set.range_nonempty ↑c) (IsChain.directedOn (isChain_range c)) (isLUB_range_ωSup c)
+  exact ωScottContinuous.isLUB hf.scottContinuousOn
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:308]: could do this in term-mode if you like, up to you

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 20]
```diff
@@ -228,63 +243,117 @@ open Chain
 
 variable [OmegaCompletePartialOrder β]
 variable [OmegaCompletePartialOrder γ]
+variable {f : α → β} {g : β → γ}
+
+/-- ωScottContinuous - Scott Continuous over Chains-/
+def ωScottContinuous (f : α → β) := ScottContinuousOn (Set.range fun c : Chain α => Set.range c) f
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:249]:
```suggestion
def ωScottContinuous (f : α → β) : Prop := ScottContinuousOn (Set.range fun c : Chain α => Set.range c) f
```
for readability

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 21]
```diff
@@ -228,63 +243,117 @@ open Chain
...
+    IsLUB (Set.range (c.map ⟨f, hf.monotone⟩)) (f (ωSup c)) := by
+  simpa [map_coe, OrderHom.coe_mk, Set.range_comp]
+    using hf (by simp) (Set.range_nonempty _) (isChain_range c).directedOn (isLUB_range_ωSup c)
+
+lemma ωScottContinuous.id : ωScottContinuous (id : α → α) := ScottContinuousOn.id
+
+lemma ωScottContinuous.map_ωSup (hf : ωScottContinuous f) (c : Chain α) :
+    f (ωSup c) = ωSup (c.map ⟨f, hf.monotone⟩) := ωSup_eq_of_isLUB hf.isLUB
+
+lemma ωScottContinuous_iff_monotone_map_ωSup :
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:268]: To prove (the old) continuous, it was definitionally a bit nicer than this because you don't have to provide `hf` (and then do an eta step), so let's add a lemma like
```
ωScottContinuous f ↔ ∀ c : Chain α, f (ωSup c) = ωSup (c.map f)
```
for functions like `α →o β`

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 22]
```diff
@@ -228,63 +243,117 @@ open Chain
...
+    ωScottContinuous (g.comp f) :=
+  ωScottContinuous.of_monotone_map_ωSup
+    ⟨hg.monotone.comp hf.monotone, by simp [hf.map_ωSup, hg.map_ωSup, map_comp]⟩
+
+lemma ωScottContinuous.const {x : β} : ωScottContinuous (Function.const α x) := by
+  simp [ωScottContinuous, ScottContinuousOn, Set.range_nonempty]
+
+set_option linter.deprecated false
 
 /-- A monotone function `f : α →o β` is continuous if it distributes over ωSup.
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:290]: Let's preserve this docstring and similar below, probably by merging them into the new defs/lemmas

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 23]
```diff
@@ -392,11 +459,27 @@ namespace OmegaCompletePartialOrder
 
 variable [∀ x, OmegaCompletePartialOrder <| β x]
 variable [OmegaCompletePartialOrder γ]
+variable {f : γ → ∀ x, β x}
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:462]: Seems like there's a missing lemma saying that for `f : a -> b -> c`, `ωScottContinuous f` implies `ωScottContinuous (f a)`

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 24]
```diff
@@ -487,8 +598,21 @@ end CompleteLattice
 
 namespace CompleteLattice
 
-variable {α β : Type*} [OmegaCompletePartialOrder α] [CompleteLinearOrder β]
+variable [OmegaCompletePartialOrder α] [CompleteLinearOrder β] {f g : α → β}
+
+lemma ωScottContinuous.inf (hf : ωScottContinuous f) (hg : ωScottContinuous g) :
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:603]: What about sInf? Does that hold for nice set families?

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 25]
```diff
@@ -553,14 +672,15 @@ instance : OrderHomClass (α →𝒄 β) α β where
...
 namespace ContinuousHom
 
+protected lemma ωScottContinuous (f : α →𝒄 β) : ωScottContinuous f :=
+  ωScottContinuous.of_monotone_map_ωSup ⟨f.monotone, f.map_ωSup'⟩
+
 -- Not a `simp` lemma because in many cases projection is simpler than a generic coercion
 theorem toOrderHom_eq_coe (f : α →𝒄 β) : f.1 = f := rfl
 
-@[simp] theorem coe_mk (f : α →o β) (hf : Continuous f) : ⇑(mk f hf) = f := rfl
+@[simp] theorem coe_mk (f : α →o β) (hf) : ⇑(mk f hf) = f := rfl
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:683]: Let's keep the type-sig on `hf` for readability

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 26]
```diff
@@ -584,6 +704,8 @@ protected theorem monotone (f : α →𝒄 β) : Monotone f :=
 theorem apply_mono {f g : α →𝒄 β} {x y : α} (h₁ : f ≤ g) (h₂ : x ≤ y) : f x ≤ g y :=
   OrderHom.apply_mono (show (f : α →o β) ≤ g from h₁) h₂
 
+set_option linter.deprecated false
+
 theorem ite_continuous' {p : Prop} [hp : Decidable p] (f g : α → β) (hf : Continuous' f)
```
Comment (b-mehta) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:709]: Why is this one not deprecated?

File: Mathlib/Control/LawfulFix.lean [hunk 27]
```diff
@@ -225,17 +227,19 @@ variable [(x y : _) → OmegaCompletePartialOrder <| γ x y]
...
+    rw [map_comp, map_comp]
+    rfl⟩
 
-theorem continuous_uncurry : Continuous <| monotoneUncurry α β γ := fun c ↦ by
-  ext ⟨x, y⟩
-  dsimp [uncurry, ωSup]
-  rw [map_comp, map_comp]
-  rfl
+theorem continuous_uncurry : ωScottContinuous <| monotoneUncurry α β γ :=
+  ωScottContinuous_iff_monotone_map_ωSup.mpr ⟨fun ⦃a b⦄ a i ↦ a i.fst i.snd, fun c ↦ by
```
Comment (b-mehta) [inline Mathlib/Control/LawfulFix.lean:238]: This proof got quite a bit uglier, why is that?

File: Mathlib/Topology/OmegaCompletePartialOrder.lean [hunk 28]
```diff
@@ -84,6 +84,8 @@ def notBelow :=
 
 theorem notBelow_isOpen : IsOpen (notBelow y) := by
   have h : Monotone (notBelow y) := fun x z hle ↦ mt hle.trans
+  change ωScottContinuous fun x ↦ x ∈ (notBelow y)
+  rw [ωScottContinuous_iff_monotone_map_ωSup]
```
Comment (b-mehta) [inline Mathlib/Topology/OmegaCompletePartialOrder.lean:88]:
```suggestion
  change ωScottContinuous fun x ↦ x ∈ notBelow y
  rw [ωScottContinuous_iff_monotone_map_ωSup]
```
or 
```
  rw [IsOpen, ωScottContinuous_iff_monotone_map_ωSup]
  ```

File: Mathlib/Topology/OmegaCompletePartialOrder.lean [hunk 29]
```diff
@@ -116,11 +120,7 @@ theorem scottContinuous_of_continuous {α β} [OmegaCompletePartialOrder α]
 
 theorem continuous_of_scottContinuous {α β} [OmegaCompletePartialOrder α]
     [OmegaCompletePartialOrder β] (f : Scott α → Scott β)
-    (hf : OmegaCompletePartialOrder.Continuous' f) : Continuous f := by
+    (hf : ωScottContinuous f) : _root_.Continuous f := by
```
Comment (b-mehta) [inline Mathlib/Topology/OmegaCompletePartialOrder.lean:123]: Why is the new `_root_` needed? It looks like the namespaces haven't changed here

File: Mathlib/Topology/OmegaCompletePartialOrder.lean [hunk 30]
```diff
@@ -116,11 +120,7 @@ theorem scottContinuous_of_continuous {α β} [OmegaCompletePartialOrder α]
...
   rw [continuous_def]
   intro s hs
-  change Continuous' (s ∘ f)
-  cases' hs with hs hs'
-  cases' hf with hf hf'
-  apply Continuous.of_bundled
-  apply continuous_comp _ _ hf' hs'
+  exact ωScottContinuous.comp hs hf
```
Comment (b-mehta) [inline Mathlib/Topology/OmegaCompletePartialOrder.lean:126]: nice

**Review by b-mehta — COMMENTED** [review]
Broadly speaking, these changes look good. Thanks for working on this refactor.

File: Mathlib/Control/LawfulFix.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/Control/LawfulFix.lean:238]: 1. We didn't previously have to prove monotonicity since `monotoneUncurry` is an `OrderHom`
2. We need `ωScottContinuous_iff_monotone_map_ωSup` to get back to the previous definition in terms of preserving `ωSup`.

File: Mathlib/Topology/OmegaCompletePartialOrder.lean (hunk 29 above)
Comment (YaelDillies) [reply Mathlib/Topology/OmegaCompletePartialOrder.lean:123]: Both `OmegaCompletePartialOrder.Continuous` and `Continuous` were in sight here (with opened namespace). I think 
 it was just a lucky dip that it worked before without the fully qualified name.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 26 above)
Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:709]: Yes, good point

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Done, thanks.

Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Sorry I think there was a misunderstanding, Crhistopher. The lemma should be deprecated, not deleted. And since the statement is stupid (we don't want to prove the lemma `P a → P b → P (ite p a b)` for every concrete proposition `P`) there is no need to write a version using `ωScottContinuous`.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 19 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Done, thanks.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 26 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:711]: Ah, okay.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 24 above)
Comment (PhoenixIra) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:605]: It may hold for finite sets, but I believe it's easy to find counterexamples for infinite sets.

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:605]: Abramsky and Jung 2.1.18 says that when `α` and `β` are directed complete partial orders then the space of Scott-continuous functions between them is also a directed complete partial order.

Comment (b-mehta) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:605]: Would be nice to have a version of `inf` for finite sets in that case, but feel free to leave it as a TODO for now

File: Mathlib/Control/LawfulFix.lean (hunk 27 above)
Comment (b-mehta) [reply Mathlib/Control/LawfulFix.lean:238]: Right, but with this suggestion https://github.com/leanprover-community/mathlib4/pull/13201#discussion_r1693712230 you can avoid re-proving monotonicity, and we should end up with something nice and clean again

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 31]
```diff
@@ -531,6 +531,15 @@ instance (priority := 100) [CompleteLattice α] : OmegaCompletePartialOrder α w
 
 variable [OmegaCompletePartialOrder α] [CompleteLattice β] {f g : α → β}
 
+lemma ωScottContinuous.mediatingMorphism (hf : ωScottContinuous f) (hg : ωScottContinuous g) :
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:534]:
```suggestion
lemma ωScottContinuous.prodMk (hf : ωScottContinuous f) (hg : ωScottContinuous g) :
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 32]
```diff
@@ -531,6 +531,15 @@ instance (priority := 100) [CompleteLattice α] : OmegaCompletePartialOrder α w
...
+    ωScottContinuous fun x => (f x, g x) := by
+  refine ωScottContinuous.of_monotone_map_ωSup
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:536]:
```suggestion
  refine .of_monotone_map_ωSup
```
(maybe it doesn't work yet, it needs a Lean 4 fix that might not have landed yet)

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Indeed it doesn't work yet - but I've now deduced this lemma from the general case.

File: Mathlib/Order/ScottContinuity.lean [hunk 33]
```diff
@@ -87,6 +87,31 @@ protected theorem ScottContinuous.monotone (h : ScottContinuous f) : Monotone f
...
 @[simp] lemma ScottContinuous.id : ScottContinuous (id : α → α) := by simp [ScottContinuous]
 
+end ScottContinuous
 
+section SemilatticeSup
 
-end ScottContinuous
+variable [Preorder α] [SemilatticeSup β]
+
+lemma ScottContinuous.sup : ScottContinuous fun (a, b) => (a ⊔ b : β) := by
```
Comment (YaelDillies) [inline Mathlib/Order/ScottContinuity.lean:96]: That's the wrong name for this.
```suggestion
lemma ScottContinuous.sup₂ : ScottContinuous fun (a, b) => (a ⊔ b : β) := by
```

File: Mathlib/Control/LawfulFix.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/Control/LawfulFix.lean:238]: Sure, but it feels a bit idiosyncratic to order homs

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 21 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:270]: Done, thanks!

File: Mathlib/Control/LawfulFix.lean (hunk 27 above)
Comment (mans0954) [reply Mathlib/Control/LawfulFix.lean]: Done, thanks.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 22 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:302]: Done, thanks.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 25 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Done. It now becomes `(hf : ∀ (c : Chain α), f.toFun (ωSup c) = ωSup (c.map f))`.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 24 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:629]: I started thinking about this, but it opened up a lot more questions. I've left it as a TODO for now.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 23 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:475]: @b-mehta sorry, I can't quite see what the statement would be. Please can you elaborate? Thanks.

File: Mathlib/Control/LawfulFix.lean [hunk 34]
```diff
@@ -250,9 +254,9 @@ section Curry
 
 variable {f : ((x : _) → (y : β x) → γ x y) →o (x : _) → (y : β x) → γ x y}
```
Comment (YaelDillies) [inline Mathlib/Control/LawfulFix.lean:255]:
```suggestion
variable {f : (∀ a b, γ a b) → ∀ a b, γ a b}
```

File: Mathlib/Control/LawfulFix.lean [hunk 35]
```diff
@@ -250,9 +254,9 @@ section Curry
...
 
-theorem uncurry_curry_continuous (hc : Continuous f) :
-    Continuous <| (monotoneUncurry α β γ).comp <| f.comp <| monotoneCurry α β γ :=
-  continuous_comp _ _ (continuous_comp _ _ (continuous_curry _ _ _) hc) (continuous_uncurry _ _ _)
+theorem uncurry_curry_continuous (hc : ωScottContinuous f) :
+    ωScottContinuous <| (monotoneUncurry α β γ).comp <| f.comp <| monotoneCurry α β γ :=
+  (continuous_uncurry _ _ _).comp (hc.comp (continuous_curry _ _ _))
```
Comment (YaelDillies) [inline Mathlib/Control/LawfulFix.lean:259]:
```suggestion
theorem uncurry_curry_ωScottContinuous (hc : ωScottContinuous f) :
    ωScottContinuous <| (monotoneUncurry α β γ).comp <| f.comp <| monotoneCurry α β γ :=
  (continuous_uncurry _ _ _).comp (hc.comp (continuous_curry _ _ _))
```

File: Mathlib/Control/LawfulFix.lean [hunk 36]
```diff
@@ -35,11 +35,12 @@ halting problem. Instead, this requirement is limited to only functions that are
 sense of `ω`-complete partial orders, which excludes the example because it is not monotone
 (making the input argument less defined can make `f` more defined). -/
 class LawfulFix (α : Type*) [OmegaCompletePartialOrder α] extends Fix α where
-  fix_eq : ∀ {f : α →o α}, Continuous f → Fix.fix f = f (Fix.fix f)
+  fix_eq : ∀ {f : α →o α}, ωScottContinuous f →
+    Fix.fix f = f (Fix.fix f)
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Control/LawfulFix.lean]: @YaelDillies this breaks stuff further down, and it's not immediately obvious to me how to fix it.

**Comment by mans0954** [comment]
@YaelDillies with some difficulty I've managed to get this building again, but I'm not sure if I've correctly interpreted your intentions? Please can you have another look? Thanks.

File: Mathlib/Control/LawfulFix.lean [hunk 37]
```diff
@@ -35,11 +35,12 @@ halting problem. Instead, this requirement is limited to only functions that are
 sense of `ω`-complete partial orders, which excludes the example because it is not monotone
 (making the input argument less defined can make `f` more defined). -/
 class LawfulFix (α : Type*) [OmegaCompletePartialOrder α] extends Fix α where
-  fix_eq : ∀ {f : α →o α}, Continuous f → Fix.fix f = f (Fix.fix f)
+  fix_eq : ∀ {f : α → α}, ωScottContinuous f → Fix.fix f = f (Fix.fix f)
 
+@[deprecated (since := "2024-08-26")]
```
Comment (YaelDillies) [inline Mathlib/Control/LawfulFix.lean:40]:
```suggestion
@[deprecated LawfulFix.fix_eq (since := "2024-08-26")]
```

File: Mathlib/Control/LawfulFix.lean [hunk 38]
```diff
@@ -182,15 +189,16 @@ def toUnitMono (f : Part α →o Part α) : (Unit → Part α) →o Unit → Par
   toFun x u := f (x u)
   monotone' x y (h : x ≤ y) u := f.monotone <| h u
 
-theorem to_unit_cont (f : Part α →o Part α) (hc : Continuous f) : Continuous (toUnitMono f)
-  | _ => by
```
Comment (YaelDillies) [inline Mathlib/Control/LawfulFix.lean:186]: Please restore this lemma, but tagged `@[deprecated ωScottContinuous_toUnitMono (since := "2024-08-26")]`

File: Mathlib/Control/LawfulFix.lean [hunk 39]
```diff
@@ -225,13 +233,17 @@ variable [(x y : _) → OmegaCompletePartialOrder <| γ x y]
 
 open OmegaCompletePartialOrder.Chain
 
-theorem continuous_curry : Continuous <| monotoneCurry α β γ := fun c ↦ by
```
Comment (YaelDillies) [inline Mathlib/Control/LawfulFix.lean:228]: Same here, you should keep the original lemma but tag it `@[deprecated ωScottContinuous_curry (since := "2024-08-26")]`

File: Mathlib/Control/LawfulFix.lean [hunk 40]
```diff
@@ -225,13 +233,17 @@ variable [(x y : _) → OmegaCompletePartialOrder <| γ x y]
...
+  ωScottContinuous.of_map_ωSup_of_orderHom fun c ↦ by
+    ext x y
+    dsimp [curry, ωSup]
+    rw [map_comp, map_comp]
+    rfl
 
-theorem continuous_uncurry : Continuous <| monotoneUncurry α β γ := fun c ↦ by
+theorem continuous_uncurry :
+    ωScottContinuous (monotoneUncurry α β γ) :=
+    .of_map_ωSup_of_orderHom fun c ↦ by
```
Comment (YaelDillies) [inline Mathlib/Control/LawfulFix.lean:246]: Here is a concrete example
```suggestion
theorem ωScottContinuous_uncurry :
    ωScottContinuous (monotoneUncurry α β γ) :=
    .of_map_ωSup_of_orderHom fun c ↦ by
  ext ⟨x, y⟩
  dsimp [uncurry, ωSup]
  rw [map_comp, map_comp]
  rfl

@[deprecated ωScottContinuous_uncurry  (since := "2024-08-26")]
theorem continuous_uncurry : Continuous <| monotoneUncurry α β γ := fun c ↦ by
```

**Comment by YaelDillies** [comment]
Since this is dragging on, please also free to tell me to fix the PR myself

File: Mathlib/Control/LawfulFix.lean (hunk 39 above)
Comment (mans0954) [reply Mathlib/Control/LawfulFix.lean:228]: Done, thanks.

**Comment by mans0954** [comment]
> Since this is dragging on, please also free to tell me to fix the PR myself

@YaelDillies I think I've restored all of the deleted functions as deprecated now. How's that?

File: Mathlib/Control/LawfulFix.lean [hunk 41]
```diff
@@ -182,15 +206,23 @@ def toUnitMono (f : Part α →o Part α) : (Unit → Part α) →o Unit → Par
   toFun x u := f (x u)
   monotone' x y (h : x ≤ y) u := f.monotone <| h u
 
+theorem ωScottContinuous_toUnitMono (f : Part α → Part α) (hc : ωScottContinuous f) :
+    ωScottContinuous (toUnitMono ⟨f,hc.monotone⟩) := .of_map_ωSup_of_orderHom fun _ => by
+    ext ⟨⟩ : 1
+    dsimp [OmegaCompletePartialOrder.ωSup]
+    erw [hc.map_ωSup, Chain.map_comp]; rfl
```
Comment (YaelDillies) [inline Mathlib/Control/LawfulFix.lean:213]:
```suggestion
  ext ⟨⟩ : 1
  dsimp [OmegaCompletePartialOrder.ωSup]
  erw [hc.map_ωSup, Chain.map_comp]; rfl
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 42]
```diff
@@ -6,6 +6,7 @@ Authors: Simon Hudon, Ira Fesefeldt
 import Mathlib.Control.Monad.Basic
 import Mathlib.Dynamics.FixedPoints.Basic
 import Mathlib.Order.Chain
+import Mathlib.Order.ScottContinuity
 import Mathlib.Order.Hom.Order
 import Mathlib.Order.Iterate
 import Mathlib.Order.Part
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:12]:
```suggestion
import Mathlib.Order.Hom.Order
import Mathlib.Order.Iterate
import Mathlib.Order.Part
import Mathlib.Order.ScottContinuity
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 43]
```diff
@@ -448,20 +540,55 @@ instance (priority := 100) [CompleteLattice α] : OmegaCompletePartialOrder α w
...
 
-variable {α} {β : Type v} [OmegaCompletePartialOrder α] [CompleteLattice β]
+variable [OmegaCompletePartialOrder α] [CompleteLattice β] {f g : α → β}
+
+-- TODO Prove this result for `ScottContinuousOn` and deduce this as a special case
+-- https://github.com/leanprover-community/mathlib4/pull/15412
+open Chain in
+lemma ωScottContinuous.prodMk (hf : ωScottContinuous f) (hg : ωScottContinuous g) :
+    ωScottContinuous fun x => (f x, g x) := ScottContinuousOn.prodMk (fun a b hab => by
+    use pair a b hab; exact range_pair a b hab) hf hg
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:550]:
```suggestion
  use pair a b hab; exact range_pair a b hab) hf hg
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 44]
```diff
@@ -554,14 +698,16 @@ instance : OrderHomClass (α →𝒄 β) α β where
...
 
+protected lemma ωScottContinuous (f : α →𝒄 β) : ωScottContinuous f :=
+  ωScottContinuous.of_map_ωSup_of_orderHom f.map_ωSup'
+
 -- Not a `simp` lemma because in many cases projection is simpler than a generic coercion
 theorem toOrderHom_eq_coe (f : α →𝒄 β) : f.1 = f := rfl
 
-@[simp] theorem coe_mk (f : α →o β) (hf : Continuous f) : ⇑(mk f hf) = f := rfl
+@[simp] theorem coe_mk (f : α →o β) (hf : ∀ (c : Chain α), f.toFun (ωSup c) = ωSup (c.map f)) :
+    ⇑(mk f hf) = f := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:710]:
```suggestion
@[simp, norm_cast] theorem coe_mk (f : α →o β) (hf) : ⇑(mk f hf) = f := rfl
```

**Review by YaelDillies — COMMENTED** [review]
Yes indeed, looks better!

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 44 above)
Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:710]: @YaelDillies Lean is saying:
> norm_cast: badly shaped lemma, rhs can't start with coe
  ⇑f

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:710]:
```
@[simp] theorem coe_mk (f : α →o β) (hf) : ⇑(mk f hf) = f := rfl
```
looks okay though.

Comment (mans0954) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: I've gone with that for now.

**Comment by YaelDillies** [comment]
Let's go with this for now. Thanks for your patience!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
